US04751291
(2) Preparation of 2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyl fluoride
10.0 g (24.3 mmol) of 2,3,4,6-tetra-O-acetyl-α-D-galactopyranosyl bromide were heated under reflux in 100 ml of anhydrous acetonitrile with 10.0 g (128 mmol) of potassium hydrogen difluoride for 6 hours. The mixture was then filtered, the solvent was stripped off in vacuo and the residue was taken up in methylene chloride. After filtration over a short silica gel column and concentration of the solution, it was possible to crystallize the product from ether. Yield 6.1 g (72%), melting point 100° C., [α·D20 =+17.5 (c=1.03 in CHCl3) [F. Micheel et al., Chem. Ber. 88, 475 (1955), melting point 98°-99° C., [α]D18 =+22 (CH3OH)]. 1H NMR (CDCl3): δ=5.26 (dd, 1-H), J1.2 =7.0, J1,F =50.0 Hz.

reactant | 2,3,4,6-tetra-O-acetyl-α-D-galactopyranosyl bromide | 24.3 mmol, 10.0 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | potassium hydrogen difluoride | 128 mmol, 10.0 g | F.[F-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyl fluoride | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)F | C14H19FO9
